US07781431B2
Step 3: methyl 5-(4-chlorophenyl)-6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.05 M) of [5-(4-chlorophenyl)-6-cyclohexyl-2-(methoxycarbonyl)-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid in DMF at RT was treated with morpholine (2 eq.), DIEA (1.5 eq.) and HATU (2.5 eq.). The mixture was stirred at RT for 8 h, then it was diluted with DCM and washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and dried. Evaporation of the solvent under reduced pressure gave a residue which was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 10 micron, 19×150 mm; flow: 20 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 90% A isocratic for 2 min then linear to 10% A in 9 min) to afford the title compound (51%) as a solid.

reactant | [5-(4-chlorophenyl)-6-cyclohexyl-2-(methoxycarbonyl)-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid | 0.05 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)O)C=C(S2)C(=O)OC)C2CCCCC2 | C22H22ClNO4S
reactant | morpholine | 2 eq. | N1CCOCC1 | C4H9NO
reactant | DIEA | 1.5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 5-(4-chlorophenyl)-6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 51% | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)N1CCOCC1)C=C(S2)C(=O)OC)C2CCCCC2 | C26H29ClN2O4S
